US06936602B1
In DMF (10.0 ml) was suspended 1-formyl-7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (433 mg). To the suspension was added thionyl chloride (0.22 ml), and the mixture was stirred at room temperature for 30 minutes. Under reduced pressure, the solvent was evaporated, and to the mixture was added THF (15.0 ml). On the other hand, to 4-[[N-methyl-N-tetrahydro-2H-pyran-4-yl)amino]methyl]aniline dihydrochloride (434 mg) was added THF (10.0 ml) and then added triethylamine (1.29 ml). The previously prepared acid chloride suspension was added dropwise at 0° C. The mixture was stirred at room temperature for 4 hours. To the mixture was added water, and the mixture was washed with water and saturated brine, and the organic layer was dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was recrystallized from ethanol to give 1-formyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxamide (554 mg, 81%) as white crystals.

reactant | 1-formyl-7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 433 mg | C(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCC)C(=O)O | C21H21NO4
reactant | thionyl chloride | 0.22 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 10.0 ml | CN(C)C=O | C3H7NO
product | 1-formyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-7-(4-propoxyphenyl)-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 554 mg, 81% | C(=O)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCC)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C | C34H39N3O4
